US06509334B1
6-(3-Bromo-5-fluoro-phenyl)-4,4-dicyclopropyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one
Prepared according to Procedure B from (4,4-dicyclopropyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 1,3-dibromo-5-fluorobenzene. A white solid: mp 228-229° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.76-7.72 (m, 2H), 7.65 (dd, 1H, J=8.32, 1.74 Hz), 7.60 (d, 1H, J=10.36 Hz), 7.51 (d, 1H, J=8.3 Hz), 6.93 (d, 1H, J=8.31 Hz), 1.63-1.54 (m, 2H), 0.58-0.41 (m, 6H), 0.30-0.28 (m, 2H); MS (APCI) m/z 402/404 ([M−H]−, 100%); Anal. Calc. For C20H17BrFNO2: C, 58.48, H, 4.17, N, 3.41. Found: C, 58.77, H, 4.23, N, 3.32.

reactant | (4,4-dicyclopropyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | C1(CC1)C1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C2CC2 | C14H16BNO4
reactant | 1,3-dibromo-5-fluorobenzene | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
product | 6-(3-Bromo-5-fluoro-phenyl)-4,4-dicyclopropyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C2CC2)C2CC2)=O)C=C1 | C20H17BrFNO2
